US05889013
Preparation of 1-butyl-6-[(3,5-dimethylphenyl)selenenyl]-5-isopropyl-2-thiouracil (Compound No. 63)
The titled compound was prepared in the same manner as described in Example 39 by using 1-butyl-5-isopropyl-6-(methylsulfinyl)-2-thiouracil and (3,5-dimethylphenyl) selenol in place of 1-(4-acetoxybutyl)-5-ethyl-6-(methylsulfinyl)-2-thiouracil and benzeneselenol, respectively.

reactant | 1-butyl-5-isopropyl-6-(methylsulfinyl)-2-thiouracil | C(CCC)N1C(=S)NC(=O)C(=C1S(=O)C)C(C)C | C12H20N2O2S2
reactant | (3,5-dimethylphenyl) selenol | CC=1C=C(C=C(C1)C)[SeH] | C8H10Se
reactant | benzeneselenol | C1(=CC=CC=C1)[SeH] | C6H6Se
product | 1-butyl-6-[(3,5-dimethylphenyl)selenenyl]-5-isopropyl-2-thiouracil | Yield: 88% | C(CCC)N1C(=S)NC(=O)C(=C1[Se]C1=CC(=CC(=C1)C)C)C(C)C | C19H26N2OSSe
